US04558059
Synthesis of 2-(2-methoxyphenyl)-4-methylthiazole-5-methylcarboxamide
Into a mixed solvent of 80 ml of 40% methylamine and 600 ml of ethanol, 13.9 g of ethyl 2-(2-methoxyphenyl)-4-methylthiazole-5-carboxylate was dissolved. Then, in a similar manner in Example 1, the object was obtained as colourless aciculate melting at 167.5° to 168.5° C. in an amount of 9.4 g corresponding to the yield of 72%.

reactant | methylamine | 80 ml | CN | CH5N
reactant | ethyl 2-(2-methoxyphenyl)-4-methylthiazole-5-carboxylate | 13.9 g | COC1=C(C=CC=C1)C=1SC(=C(N1)C)C(=O)OCC | C14H15NO3S
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-(2-methoxyphenyl)-4-methylthiazole-5-methylcarboxamide | yield of 72% | CC1=C(SC(=N1)C2=CC=CC=C2OC)C(=O)NC | C13H14N2O2S
